US07700594B2
To a solution of 6-bromo-7-fluoro-1H-indole (470 mg, 2.19 mmol) in THF (7 mL) at −10° C. was added sodium hydride (175 mg, 4.39 mmol, 60% dispersion) and the mixture was stirred at 0° C. for 30 min. Methyl iodide was added at 0° C. and the reaction was allowed to warm to at 10° C. and stirred for 2 h. The reaction was quenched with saturated ammonium chloride and extracted with DCM. The DCM extract was washed with brine, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The crude product was purified by column chromatography over silica gel eluting with EtOAc/hexane to afford 6-bromo-7-fluoro-1-methyl-1H-indole. 1H NMR (400 MHz, CDCl3) δ=3.95 (d, J=2.00 Hz, 1H), 6.42 (t, J=2.78 Hz, 1H), 6.94 (d, J=3.03 Hz, 1H), 7.09-7.15 (m, 1H) and 7.20 (d, J=8.34 Hz, 1H); MS (ES+): m/z 228.04 [MH+].

reactant | 6-bromo-7-fluoro-1H-indole | 2.19 mmol, 470 mg | BrC1=CC=C2C=CNC2=C1F | C8H5BrFN
reactant | sodium hydride | 4.39 mmol, 175 mg | [H-].[Na+]
reactant | Methyl iodide | CI | CH3I
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 6-bromo-7-fluoro-1-methyl-1H-indole | BrC1=CC=C2C=CN(C2=C1F)C | C9H7BrFN
